US06500835B2
Synthesis of 4-[(7-methoxy-2,4(1H,3H)-quinazolinedion-3-yl)sulfonyl]anthranilic acid (Compound 27)
500 mg (1.23 mmol) of 3-benzyloxycarbonylamino-4-t-butoxycarbonylbenzenesulfonamide and 460 mg (1.22 mmol) of benzyl 4-methoxy-2-N-phenoxycarbonylanthranilate were treated in the same way as in Preparation Example 17 to obtain 15 mg (yield 3.1%: 4 steps) of the above-identified compound. Properties: colorless crystal, Melting point: >200° C. (decomposition), PMR (δ ppm, DMSO-d6): 3.82 (3H, s), 6.58 (1H, s) 6.80 (1H, d), 7.16 (1H, d), 7.56 (1H, s), 7.80 (1H, d) 7.90 (1H, d), 11.49 (1H, s).

reactant | 3-benzyloxycarbonylamino-4-t-butoxycarbonylbenzenesulfonamide | 1.23 mmol, 500 mg | C(C1=CC=CC=C1)OC(=O)NC=1C=C(C=CC1C(=O)OC(C)(C)C)S(=O)(=O)N | C19H22N2O6S
reactant | benzyl 4-methoxy-2-N-phenoxycarbonylanthranilate | 1.22 mmol, 460 mg | COC=1C=C(C(C(=O)OCC2=CC=CC=C2)=CC1)NC(=O)OC1=CC=CC=C1 | C22H19NO5
product | 4-[(7-methoxy-2,4(1H,3H)-quinazolinedion-3-yl)sulfonyl]anthranilic acid | yield 3.1% | COC1=CC=C2C(N(C(NC2=C1)=O)S(=O)(=O)C=1C=C(C(C(=O)O)=CC1)N)=O | C16H13N3O7S
